US05668291
{2-[2-(pyrrolidine-1-carbonyl)-phenydisulfanyl]-phenyl}-pyrrolidin-1-yl-methanone
This compound was prepared according to the general method of Example 112 using 2,2'-dithiobisbenzoyl chloride (1.0 g, 3.0 mmol) in 15 mL of dichloromethane and pyrrolidine (0.63 mL, 7.5 mmol) and triethylamine (1.2 mL, 9 mmol) in 20 mL of dichloromethane, to give 0.75 g of the title compound as a foam, mp 62°-63° C.;

reactant | 2,2'-dithiobisbenzoyl chloride | 3.0 mmol, 1.0 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | pyrrolidine | 7.5 mmol, 0.63 mL | N1CCCC1 | C4H9N
reactant | triethylamine | 9 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | {2-[2-(pyrrolidine-1-carbonyl)-phenydisulfanyl]-phenyl}-pyrrolidin-1-yl-methanone | 0.75 g | N1(CCCC1)C(=O)C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(=O)N1CCCC1 | C22H24N2O2S2
